US08080566B1
A 250-mL 3-necked round-bottom flask was charged with a solution of 4-bromo-3-nitrobenzaldehyde (11.5 g, 50.00 mmol, 1.00 equiv) in toluene (80 mL). To this was added phenylboronic acid (6.7 g, 54.92 mmol, 1.10 equiv), followed by the addition of a solution of K2CO3 (13.8 g, 100.00 mmol, 2.00 equiv) in water (50 mL). To the mixture was added Pd(PPh3)4 (1.2 g, 1.04 mmol, 0.02 equiv) in one portion. The resulting solution was stirred at 110° C. for 15 hours. Upon completion, the reaction mixture was cooled down to room temperature. The resulting solution was diluted with 1000 mL of Et2O. The solids were filtered out. The resulting organic layers were washed with water (3×300 mL), dried over anhydrous magnesium sulfate and concentrated on a rotary evaporator. The residue was purified by silica gel column chromatography eluted with ethyl acetate/petroleum ether (1:50) to afford 2-nitrobiphenyl-4-carbaldehyde as yellow solid (6.7 g, 59%).

reactant | 4-bromo-3-nitrobenzaldehyde | 50.00 mmol, 11.5 g, 1.00 equiv | BrC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4BrNO3
reactant | phenylboronic acid | 54.92 mmol, 6.7 g, 1.10 equiv | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K2CO3 | 100.00 mmol, 13.8 g, 2.00 equiv | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 mL | O | H2O
solvent | Et2O | 1000 mL | CCOCC | C4H10O
catalyst | Pd(PPh3)4 | 1.04 mmol, 1.2 g, 0.02 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-nitrobiphenyl-4-carbaldehyde | 6.7 g, 59% | [N+](=O)([O-])C1=C(C=CC(=C1)C=O)C1=CC=CC=C1 | C13H9NO3
